US08871792B2
(R)-3-{N-(2′,5′-Dichlorobiphenyl-4-ylmethyl)-N′-[1-(5-methyl-2-oxo-[1,3]-dioxol-4-ylmethoxy)-1H-[1,2,3]triazole-4-carbonyl]hydrazino}-2-hydroxypropionic Acid
4-Chloromethyl-5-methyl-1,3-dioxol-2-one (14.9 mg, 100 μmol) was added to a solution of (R)-3-[N-(2′,5′-dichlorobiphenyl-4-ylmethyl)-N′-(1-hydroxy-1H-1,2,3-triazole-4-carbonyl)hydrazino]-2-hydroxypropionic acid (31.2 mg, 66.8 μmol) in acetone (0.5 mL, 6.8 mmol) followed by Et3N (18.6 μL, 134 μmol). The resulting mixture was stirred at 65° C. for 2 hours. The mixture was then concentrated in vacuo to yield a yellow liquid. The crude liquid was purified (preparative scale C18 column chromatography, small column, using 30-90% MeCN in water with 0.05% TFA) to yield the title compound (10.0 mg, purity 99%) as a white solid. MS m/z [M+H]+ calc'd for C24H21Cl2N5O8, 578.08. found 578.1.

reactant | 4-Chloromethyl-5-methyl-1,3-dioxol-2-one | 100 μmol, 14.9 mg | ClCC=1OC(OC1C)=O | C5H5ClO3
reactant | (R)-3-[N-(2′,5′-dichlorobiphenyl-4-ylmethyl)-N′-(1-hydroxy-1H-1,2,3-triazole-4-carbonyl)hydrazino]-2-hydroxypropionic acid | 66.8 μmol, 31.2 mg | ClC1=C(C=C(C=C1)Cl)C1=CC=C(C=C1)CN(NC(=O)C=1N=NN(C1)O)C[C@H](C(=O)O)O | C19H17Cl2N5O5
reactant | acetone | 6.8 mmol, 0.5 mL | CC(=O)C | C3H6O
reactant | Et3N | 134 μmol, 18.6 μL | CCN(CC)CC | C6H15N
product | (R)-3-{N-(2′,5′-Dichlorobiphenyl-4-ylmethyl)-N′-[1-(5-methyl-2-oxo-[1,3]-dioxol-4-ylmethoxy)-1H-[1,2,3]triazole-4-carbonyl]hydrazino}-2-hydroxypropionic Acid | 10.0 mg | ClC1=C(C=C(C=C1)Cl)C1=CC=C(C=C1)CN(NC(=O)C=1N=NN(C1)OCC=1OC(OC1C)=O)C[C@H](C(=O)O)O | C24H21Cl2N5O8
